US07439370B2
1c) methyl 2-bromo-3-(3-methyl-2-buten-1-yl)-5-formyl-3H-imidazole-4-carboxylate
Under an argon atmosphere 35 ml (35 mmol) diisobutylaluminium hydride (1 mol/l in toluene) were added dropwise at −65° C. within 20 minutes to a solution of 9.00 g (12.18 mmol) dimethyl 2-bromo-1-(3-methyl-2-buten-1-yl)-1H-imidazole-4,5-dicarboxylate in 140 ml of tetrahydrofuran. After 1 hour at −65° C. another 5 ml (5 mmol) diisobutylaluminium hydride (1 mol/l in toluene) was added dropwise. The mixture was stirred for a further hour at −65° C. and then 20 ml of a 1:1 mixture of hydrochloric acid (1 mol/l) and tetrahydrofuran were added dropwise. After heating to ambient temperature approx. 100 ml of water was added, and the mixture was extracted three times with 70 ml of ethyl acetate. The extracts were dried over sodium sulphate, evaporated down, and the crude product thus obtained was purified by column chromatography (silica gel; eluant: cyclohexane/ethyl acetate 3:1->1:2).

reactant | diisobutylaluminium hydride | 35 mmol, 1 mol/l, 35 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | dimethyl 2-bromo-1-(3-methyl-2-buten-1-yl)-1H-imidazole-4,5-dicarboxylate | 12.18 mmol, 9.00 g | BrC=1N(C(=C(N1)C(=O)OC)C(=O)OC)CC=C(C)C | C12H15BrN2O4
reactant | diisobutylaluminium hydride | 5 mmol, 1 mol/l, 5 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | 1 mol/l | Cl | ClH
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
product | methyl 2-bromo-3-(3-methyl-2-buten-1-yl)-5-formyl-3H-imidazole-4-carboxylate | BrC1=NC(=C(N1CC=C(C)C)C(=O)OC)C=O | C11H13BrN2O3
